US03953397
Preparation of N-(Pentabromobenzoyl)-3,4-dibromohexahydrophthalimide
3,4-Dibromohexahydrophthalimide (0.10 mole), benzene (300 ml) and pyridine (0.11 mole) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. Pentabromobenzoyl chloride (0.10 mole) is then added dropwise to the flask with stirring at room temperature. After the addition is completed the reaction mixture is heated at reflux with continued stirring for a period of about 1 hour. After this time the reaction mixture is filtered and the filtrate is washed with water. The washed filtrate is then dried over anhydrous magnesium sulfate, filtered and stripped of solvent under reduced pressure to yield the desired product N-(pentabromobenzoyl)-3,4-dibromohexahydrophthalimide.

reactant | 3,4-Dibromohexahydrophthalimide | 0.10 mole | BrC1C2C(C(=O)NC2=O)CCC1Br | C8H9Br2NO2
reactant | pyridine | 0.11 mole | N1=CC=CC=C1 | C5H5N
reactant | Pentabromobenzoyl chloride | 0.10 mole | BrC1=C(C(=C(C(=C1C(=O)Cl)Br)Br)Br)Br | C7Br5ClO
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | N-(pentabromobenzoyl)-3,4-dibromohexahydrophthalimide | BrC1=C(C(=C(C(=C1C(=O)N1C(C2C(C1=O)C(C(CC2)Br)Br)=O)Br)Br)Br)Br | C15H8Br7NO3
